Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
MVC, hypoglycemia

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo M w/ hx ___ s/p restrained driver MVC in which he crossed 
the median and hit another car at unknown speed. Mod-severe 
damage. Pt was found to be unresponsive at scene, with a FSG 24. 
Thiamine and 1 amp D50 given with return to consciousness. In 
the ED, his initial GCS was 15, however during his stay he did 
have an additional episode of hypoglycemia requiring 1 amp D50. 
FAST was concerning for free fluid in RUQ; pt refused CT scan of 
the abdomen.  CT head and cspine were negative.

 
Past Medical History:
PMH: IDDM,gastroparesis, severe constip, iron def anemia, 
internal hemorrhoids, facial fungus infection  

PSH: none

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
 
Temp: 97 HR: 112 BP: 200/93 Resp: 18 O(2)Sat: 100
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended

 
Pertinent Results:
IMAGING: (prelim reads)
___ CT head: negative
___ CT cspine: No fx. Mod DJD C4-5 and C5-6
___ CXR: negative
___ pelvis xray: negative

___ 02:02AM BLOOD WBC-4.2 RBC-4.41* Hgb-13.1* Hct-37.0* 
MCV-84 MCH-29.8 MCHC-35.5* RDW-12.7 Plt ___
___ 02:02AM BLOOD Glucose-32* UreaN-16 Creat-1.1 Na-143 
K-3.5 Cl-106 HCO3-28 AnGap-13
___ 12:25AM BLOOD ALT-34 AST-38 AlkPhos-59 TotBili-0.5
___ 02:02AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0
___ 12:33AM BLOOD Glucose-45* Lactate-2.0 Na-140 K-3.4 
Cl-98 calHCO3-___: possible renal subcapsular hematoma noted on FAST 
otherwise no injuries noted. admitted to ___ from ED. 
hematorcrits stable. hemodynamically stable overnight. restarted 
on home hypoglycemic regimen for blood sugars in the 300's.  
Transferred to floor.  Stable on floor.  Single episode FSBG of 
___'s, asymptomatic.  ___ consulted and 
educated patient/informed of appropriate insulin reccomendations 
and f/u.  Stable while on floor with blood sugars controlled at 
time of discharge.  Patient was tolerating a regular diet with 
adequate urine output, stable vital signs and clear mentation at 
time of discharge.
 
Medications on Admission:
- lantus - 6U daily at noon
- novalog ISS - with meals up to 20 units per day

 
Discharge Medications:
1. Humalog KwikPen 100 unit/mL Insulin Pen Sig: One (1)  
Subcutaneous QAHCS: Please use the following scale for insulin 
administratio at Breakfast lunch dinner and bedtime
< 100 0 units
101-150 O units
151-200 2 units
201-250 3 units
251-300 4 units
301-350 5 units
351-400 6 units
>400 6 units.  
2. Lantus 100 unit/mL Solution Sig: Five (5) Units Subcutaneous 
once a day: Please take 5 Units at 12:00 every day.  Do not take 
if experiencing symptoms of hypoglycemia.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Hypogylcemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were seen and evaluated in the Emergency department for a 
MVC with and episode of hypoglycemia.  You were admitted to the 
ICU for further observation and managment and transfered to the 
general care floor when stable.  You were discharged to home 
after ___ had evaluated you and discussed 
insulin and blood glucose monitoring with you.  You were 
discharged home with plan to follow up with ___ Diabetes 
Center.

*You are not allowed to operate a motor vehicle until cleared by 
a physician to do so.

Please do not drive while taking narcotic pain medication
Monitor your blood glucose as discussed with ___ 
Center
 
Followup Instructions:
___